US05236822
1-methyl-2-(1-pyrazolyl)pyridinium iodide
2-Chloro-1-methylpyridinium iodide (5.0 g), pyrazole (1.3 g) and diisopropylethylamine (2.5 g) were added to acetonitrile (50 ml) and the mixture refluxed for 3.5 hours. The acetonitrile was removed and the residue dissolved in hot ethanol. The solution was left in the refrigerator overnight. The product was collected by filtration Yield, 1.73 g; mp 129°-130° C.

reactant | 2-Chloro-1-methylpyridinium iodide | 5.0 g | [I-].ClC1=[N+](C=CC=C1)C
reactant | pyrazole | 1.3 g | N1N=CC=C1 | C3H4N2
reactant | diisopropylethylamine | 2.5 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-methyl-2-(1-pyrazolyl)pyridinium iodide | [I-].C[N+]1=C(C=CC=C1)N1N=CC=C1 | InChI=1S/C9H10N3.HI/c1-11-7-3-2-5-9(11)12-8-4-6-10-12;/h2-8H,1H3;1H/q+1;/p-1
